US09403798B2
3-(4-Chlorobenzyl)-6-[4-(4-fluorophenyl)piperazin-1-yl]-1,3,5-triazine-2,4(1H,3H)-dione
To an N,N-dimethylformamide solution of 6-[4-(4-fluorophenyl)piperazin-1-yl]-1,3,5-triazine-2,4(1H,3H)-dione (1.20 g, 4.12 mmol) synthesized in Reference Synthesis Example 18, lithium hydride (75 mg, 4.94 mmol), 4-chlorobenzyl chloride (0.70 g, 4.12 mmol), and sodium iodide (catalytic amount) were added at room temperature and the resultant solution was stirred at 50° C. for 8 hours. After completion of the reaction, the reaction solution was poured into water and the resultant mixture was washed with ethyl acetate. Diluted hydrochloric acid was added to the water phase to adjust pH to 3 and the obtained solid was collected by filtration. Extraction with a mixed solution of ethyl acetate and tetrahydrofuran from the filtrate was performed and the organic layer was concentrated under reduced pressure. The residue and the solid collected by filtration were combined to obtain the title compound (280 mg, yield 15%).

reactant | 6-[4-(4-fluorophenyl)piperazin-1-yl]-1,3,5-triazine-2,4(1H,3H)-dione | 4.12 mmol, 1.20 g | FC1=CC=C(C=C1)N1CCN(CC1)C1=NC(NC(N1)=O)=O | C13H14FN5O2
reactant | lithium hydride | 4.94 mmol, 75 mg | [H-].[Li+]
reactant | 4-chlorobenzyl chloride | 4.12 mmol, 0.70 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | sodium iodide | [I-].[Na+]
solvent | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-(4-Chlorobenzyl)-6-[4-(4-fluorophenyl)piperazin-1-yl]-1,3,5-triazine-2,4(1H,3H)-dione | 280 mg, yield 15% | ClC1=CC=C(CN2C(NC(=NC2=O)N2CCN(CC2)C2=CC=C(C=C2)F)=O)C=C1 | C20H19ClFN5O2
